* A:\FIUBA\Circuitos II\Checkpoint_1\Circuito_Final\Circuito_Final.asc
VREG N001 0 9.5
Q1 N002 VREF N009 0 BC547C
Q2 N004 N007 N009 0 BC547C
Rf1 N008 0 10k
Rf2 Vo N008 10k
VREF VREF 0 2.5
Q3 N009 N010 0 0 BC547C
Q4 N010 N010 0 0 BC547C
Rref VREF N010 1k2
Q5 N002 N002 N001 0 BC557C
Q6 N004 N002 N001 0 BC557C
Q7 N005 N003 N001 0 TIP42C
Q8 N003 N004 N005 0 BC337-40
Q9 N004 N006 Vo 0 BC547C
R4 N005 Vo 2.7
R5 N006 0 1k8
R6 N005 N006 1k
Rl Vo 0 4
L1 N007 N008 1
Vp1 Vp 0 AC 1
C2 N007 Vp 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.bjt
.include TIP42C.lib
* .op
.ac dec 200 0.1 1e9
;step param Rl 0.1 50 0.1
;dc VREG 0 24 0.1
.backanno
.end
